US06821971B2
Preparation of 2-(4-fluorophenyl)-3-(2-methanesulfonylpyrimidin-4-yl)-1-oxo-5,6,7,8-tetrahydro-1H-pyrazolo[1,2-a]pyridazine-5-(S)-carboxylic acid methyl ester (32):
To a solution of 2-(4-fluorophenyl)-3-(2-methylsulfanylpyrimidin-4-yl)-1-oxo-5,6,7,8-tetrahydro-1H -pyrazolo[1,2-a]pyridazine-5-carboxylic acid methyl ester, 31, (0.48 g, 1.16 mmol) 1:1 THF/methanol (50 mL) is added Oxone® (2.14 g, 3.5 mmol) in water (50 mL). The reaction mixture is stirred for 5 hours at room temperature, reduced in volume in vacuo to about 25 mL and ethyl acetate (200 mL) is added. The organic phase is treated with NaHCO3, brine, dried, and concentrated in vacuo to afford 0.5 g of the desired product as a yellow solid.

reactant | 2-(4-fluorophenyl)-3-(2-methylsulfanylpyrimidin-4-yl)-1-oxo-5,6,7,8-tetrahydro-1H -pyrazolo[1,2-a]pyridazine-5-carboxylic acid methyl ester | COC(=O)C1N2N(CCC1)C(C(=C2C2=NC(=NC=C2)SC)C2=CC=C(C=C2)F)=O | C20H19FN4O3S
reactant | THF methanol | 50 mL | C1CCOC1.CO
reactant | Oxone | OOS(=O)[O-].[K+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | water | 50 mL | O | H2O
solvent | brine | [Cl-].[Na+].O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 2-(4-fluorophenyl)-3-(2-methanesulfonylpyrimidin-4-yl)-1-oxo-5,6,7,8-tetrahydro-1H-pyrazolo[1,2-a]pyridazine-5-(S)-carboxylic acid methyl ester | 0.5 g | COC(=O)[C@H]1N2N(CCC1)C(C(=C2C2=NC(=NC=C2)S(=O)(=O)C)C2=CC=C(C=C2)F)=O | C20H19FN4O5S
